US05801170
1-(4-Nitrophenyl)-1,2,4-triazole
The title compound was prepared from 4-fluoronitrobenzene (2 g) and 1,2,4-triazole (1 g) as described in Description 61 to give a white solid (2.6 g, 97%).

reactant | 4-fluoronitrobenzene | 2 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,2,4-triazole | 1 g | N1N=CN=C1 | C2H3N3
product | 1-(4-Nitrophenyl)-1,2,4-triazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CN=C1 | C8H6N4O2
